US06878715B1
To a stirred solution of (R)-8-benzyloxymethyl-1-(5-hydroxyhexyl)-3-methylxanthine (19.9 g, 51.5 mmol), triethylamine (10.4 g, 103 mmol) and 4-dimethylaminopyridine (1.33 g, 11 mmol) in chloroform (130 ml) was added acetic anhydride (6.57 g, 64.4 mmol). After stirring for 3 hours at room temperature, the reaction mixture was quenched by addition of methanol (5 ml). The mixture was washed with aqueous potassium hydrogen sulfate solution (0.1 N) to pH 6-7, with water (2×50 ml) and with saturated aqueous sodium chloride solution (50 ml). After drying over magnesium sulfate, the organic solution was evaporated under reduced pressure to provide (R)-1-(5-acetoxyhexyl)-8-benzoxymethyl-3-methylxanthine (19.6 g, 88% yield) as white colored solid.

reactant | (R)-8-benzyloxymethyl-1-(5-hydroxyhexyl)-3-methylxanthine | 51.5 mmol, 19.9 g | C(C1=CC=CC=C1)OCC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)O)=O)C | C20H26N4O4
reactant | triethylamine | 103 mmol, 10.4 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 64.4 mmol, 6.57 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 11 mmol, 1.33 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 130 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(5-acetoxyhexyl)-8-benzoxymethyl-3-methylxanthine | 19.6 g, 88% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)COCC1=CC=CC=C1)C)C | C22H28N4O5
